US05713999
To 300 g of polyphosphoric acid (117% phosphoric acid) heated at 80° C. was added 0.5 g N,N-diethylaminopropyl perylenesulfonamide (prepared according to U.S. Pat. No. 4,310,359) followed by 50 g of 2,5-di(4-chloroanilino)terephthalic acid added over a period of 40 minutes, the temperature being maintained below 110° C. by adjustment of the addition rate. The mixture was heated at 113° C. for 4.5 hours. After the melt was cooled to 92° C., the acid strength was adjusted to 111% by the dropwise addition of phosphoric acid. The resultant melt was slowly poured into 525 g of methanol, the temperature being maintained below 64° C. by external cooling and adjustment of melt addition rate. The slurry was heated at reflux for one hour, cooled to below 60° C., diluted with water, filtered, and washed until acid free. The presscake was dried to obtain 43.8 g of crude dichloroquinacridone, which was then salt ground for three hours using 306 g of a microsized salt and 54.6 g of a glycol. The salt was extracted using a slightly alkaline water slurry at 65° C. for one hour. After the slurry was filtered, the presscake was reslurried in slightly acidic water and held at 65° C. for one hour. The solid component was collected by filtration and washed with water. The wet cake can be dried or used as is for specific applications. Here, the wet cake was dried in an oven at 60° C. to give approximately 43 g of 2,9-dichloroquinacridone as a magenta pigment.

reactant | 2,5-di(4-chloroanilino)terephthalic acid | 50 g | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | methanol | 525 g | CO | CH4O
solvent | water | O | H2O
catalyst | N,N-diethylaminopropyl perylenesulfonamide | 0.5 g | C(C)NN(S(=O)(=O)C1=C(C=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)CCC)NCC | C27H29N3O2S
product | 2,9-dichloroquinacridone | approximately 43 g | C1=CC2=C(C=C1Cl)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=C(N4)C=CC(=C5)Cl | C20H10Cl2N2O2
